US09102625B2
A solution of ethyl 4,6-dichloronicotinate (1.14 g, 5.18 mmol), 2-thiophenemethylamine (0.530 mL, 5.17 mmol) and DIEA (1.80 mL, 10.3 mmol) in NMP (10 mL) was stirred at 90 C for 18 h. Water and EtOAc were added. The organic phase was washed with water, then was dried over Na2SO4, concentrated in vacuo to give ethyl 6-chloro-4-(thiophen-2-ylmethylamino)nicotinate as an oil (1.54 g).

reactant | ethyl 4,6-dichloronicotinate | 5.18 mmol, 1.14 g | ClC1=CC(=NC=C1C(=O)OCC)Cl | C8H7Cl2NO2
reactant | 2-thiophenemethylamine | 5.17 mmol, 0.530 mL | S1C(=CC=C1)CN | C5H7NS
reactant | DIEA | 10.3 mmol, 1.80 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | NMP | 10 mL | CN1CCCC1=O | C5H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | ethyl 6-chloro-4-(thiophen-2-ylmethylamino)nicotinate | 1.54 g | ClC1=NC=C(C(=O)OCC)C(=C1)NCC=1SC=CC1 | C13H13ClN2O2S
